data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2788,3098,[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][NH:26][C:27](=[O:28])[C:29]([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)=[N+:36]([CH3:37])[C-:38]([CH3:39])[CH3:40]>>[CH3:1][O:2][C:3](=[O:4])[CH:5]1[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:29]([C:27]([NH:26][CH3:25])=[O:28])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[N:36]([CH3:37])[C:38]2([CH3:39])[CH3:40],water,298.15,25.580357312855053,-39.00245111578688
1909,2117,[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[C-:23]([C:24]#[N:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]=[CH:8][CH:9]1[O:10]2>>[CH3:1][C:2]1=[C:3]([C:4]#[N:5])[CH:6]2[CH:7]3[CH:8]([CH:9]1[O:10]2)[C:23]([C:24]#[N:25])([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[N:21]([CH3:22])[C:14]3([C:12]([CH3:11])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,24.417028105361872,-35.60290165267681
3340,3789,[CH3:9][C:10](=[O:11])[C:12](=[O+:13][O-:14])[C:15]([CH3:16])=[O:17].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]\[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[O:14][O:13][C:12]1([C:10]([CH3:9])=[O:11])[C:15]([CH3:16])=[O:17],water,298.15,14.834481593196294,-38.63900471802611
2381,2646,[CH3:17][NH:18][C:19](=[O:20])[C:21]#[N+:22][C-:23]([C:24](=[O:25])[O:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1.[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]#[C:7][C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[CH3:1][C:2](=[O:3])[C:4]1([Cl:5])[C:6]2=[C:7]([C:8]([C:9]#[N:10])([C:11]#[N:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[C:21]([C:19]([NH:18][CH3:17])=[O:20])=[N:22][C:23]2([C:24](=[O:25])[O:26][CH3:27])[c:28]1[cH:29][cH:30][cH:31][cH:32][cH:33]1,water,298.15,7.1067755748046535,-58.83075503984878
895,968,[CH3:12][NH:13][C:14](=[O:15])[c-:16]1[c:17](=[O:18])[o:19][c:20]([C:21]#[N:22])[n+:23]1[CH3:24].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[C:16]1([C:14]([NH:13][CH3:12])=[O:15])[C:17](=[O:18])[O:19][C:20]3([C:21]#[N:22])[N:23]1[CH3:24],water,298.15,20.15704252762229,-18.979229691849675
2734,3039,[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]#[C:7][C:8]([c:9]2[cH:10][cH:11][cH:12][cH:13][cH:14]2)([c:15]2[cH:16][cH:17][cH:18][cH:19][cH:20]2)[CH2:21][CH2:22][CH2:23][CH2:24]1.[CH3:25][O:26][C:27](=[O:28])[C:29]([C:30]#[N:31])=[O+:32][C-:33]([C:34]#[N:35])[C:36](=[O:37])[O:38][CH3:39]>>[CH3:1][O:2][C:3]1([O:4][CH3:5])[C:6]2=[C:7]([C:8]([c:9]3[cH:10][cH:11][cH:12][cH:13][cH:14]3)([c:15]3[cH:16][cH:17][cH:18][cH:19][cH:20]3)[CH2:21][CH2:22][CH2:23][CH2:24]1)[C:33]([C:34]#[N:35])([C:36](=[O:37])[O:38][CH3:39])[O:32][C:29]2([C:27]([O:26][CH3:25])=[O:28])[C:30]#[N:31],water,298.15,11.745256723863816,-64.47180485951799
2927,3262,[CH3:1]/[CH:2]=[CH:3]\[CH3:4].[CH3:5][N-:6][N+:7]([CH3:8])=[CH:9][C:10]#[N:11]>>[CH3:1][C@H:2]1[C@@H:3]([CH3:4])[N:6]([CH3:5])[N:7]([CH3:8])[CH:9]1[C:10]#[N:11],water,298.15,31.99464492988029,-16.510813801965014
2766,3072,[CH3:19][O:20][C:21](=[O:22])[CH:23]=[NH+:24][N-:25][c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]#[C:11][C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([F:7])([F:8])[F:9])[C:10]2=[C:11]([C:12]([Br:13])([Br:14])[CH2:15][CH2:16][CH2:17][CH2:18]1)[N:25]([c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1)[NH:24][CH:23]2[C:21]([O:20][CH3:19])=[O:22],water,298.15,21.993664362677933,-20.90323093353632
2564,2844,[CH3:16][NH:17][C:18](=[O:19])[CH:20]=[NH+:21][CH-:22][C:23]#[N:24].[F:1][C:2]([F:3])([F:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[F:1][C:2]([F:3])([F:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[CH:22]([C:23]#[N:24])[NH:21][CH:20]2[C:18]([NH:17][CH3:16])=[O:19],water,298.15,17.697705575763194,-42.57720061326021
295,320,[CH3:6][NH:7][C:8](=[O:9])[C:10](=[O+:11][C-:12]([CH3:13])[C:14]([CH3:15])=[O:16])[C:17]([CH3:18])=[O:19].[CH:1]#[C:2][C:3]([CH3:4])=[O:5]>>[CH:1]1=[C:2]([C:3]([CH3:4])=[O:5])[C:10]([C:8]([NH:7][CH3:6])=[O:9])([C:17]([CH3:18])=[O:19])[O:11][C:12]1([CH3:13])[C:14]([CH3:15])=[O:16],water,298.15,11.152527447755997,-65.82676057581853
